US05264430
STEP B: Preparation of benzhydryl 7β-amino-3-azidomethyl-3-cephem-4-carboxylate
To a suspension of 7β-amino-3-azidomethyl-3-cephem-4-carboxylic acid (20.7 g, 81 mmol) in a mixture of dichloromethane (250 ml) and dimethyl sulfoxide (250 ml) was added dropwise a solution of diphenyldiazomethane (17.53 g, 90 mmol) in dichloromethane (150 ml). The mixture was stirred at room temperature for 68 h, filtered, the filtrate was concentrated under reduced pressure. The residual sticky mass was taken in ethyl acetate (250 ml) and washed successively with saturated sodium bicarbonate solution, water, brine, dried over anhydrous sodium sulfate; solvent was removed under reduced pressure to give a residue which was purified over a silica column using dichloromethane-ethyl acetate (1:1) to give 18.4 g (54%) of a mixture of Δ2 and Δ3 -cephems. The mixture was directly used for the next step without further separation.

reactant | 7β-amino-3-azidomethyl-3-cephem-4-carboxylic acid | 81 mmol, 20.7 g | N[C@H]1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)O)C1=O | C8H9N5O3S
reactant | diphenyldiazomethane | 90 mmol, 17.53 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dimethyl sulfoxide | 250 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | benzhydryl 7β-amino-3-azidomethyl-3-cephem-4-carboxylate | 18.4 g, 54% | N[C@H]1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H19N5O3S
